US06352993B1
5,6dimethyl-2-(4-fluorophenylamino)-4-{1-methyl-6-(4-morpholineacetoxy)-1,2,3,4-tetrahydroisoquinolin-2-yl}pyrimidine dihydrochloride
The same procudures as in Example 167 were repeated using 5,6-dimethyl-2-(4-fluorophenylamino)-4-(1-methyl-6-hydroxy-1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine(50 mg, 0.132 mmol), 1-hydroxybenzotriazole(26.8 mg, 0.198 mmol), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide(32.9 mg, 0.171 mmol), 4-morpholineacetic acid hydrochloride (28.8 mg, 0.158 mmol), and triethylamine (46 μl, 0.330 mmol) to afford the titled compound.

reactant | 5,6-dimethyl-2-(4-fluorophenylamino)-4-(1-methyl-6-hydroxy-1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine | 0.132 mmol, 50 mg | CC=1C(=NC(=NC1C)NC1=CC=C(C=C1)F)N1C(C2=CC=C(C=C2CC1)O)C | C22H23FN4O
reactant | 1-hydroxybenzotriazole | 0.198 mmol, 26.8 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide | 0.171 mmol, 32.9 mg | C(C)N=C=NCCCN(C)C | C8H17N3
reactant | 4-morpholineacetic acid hydrochloride | 0.158 mmol, 28.8 mg | Cl.N1(CCOCC1)CC(=O)O
reactant | triethylamine | 0.330 mmol, 46 μl | C(C)N(CC)CC | C6H15N
product | 5,6dimethyl-2-(4-fluorophenylamino)-4-{1-methyl-6-(4-morpholineacetoxy)-1,2,3,4-tetrahydroisoquinolin-2-yl}pyrimidine dihydrochloride | Cl.Cl.CC=1C(=NC(=NC1C)NC1=CC=C(C=C1)F)N1C(C2=CC=C(C=C2CC1)OC(CN1CCOCC1)=O)C | InChI=1S/C28H32FN5O3.2ClH/c1-18-19(2)30-28(31-23-6-4-22(29)5-7-23)32-27(18)34-11-10-21-16-24(8-9-25(21)20(34)3)37-26(35)17-33-12-14-36-15-13-33;;/h4-9,16,20H,10-15,17H2,1-3H3,(H,30,31,32);2*1H
